* SpiceNetList
* 
* Exported from untitled.sch at 2/7/20 11:09 PM
* 
* EAGLE Version 9.5.2 Copyright (c) 1988-2019 Autodesk, Inc.
* 
.TEMP=25.000000
* --------- .OPTIONS ---------
* --------- .PARAMS ---------

* --------- devices ---------
V_G2 N_5 0 9V 
R_R1 N_1 N_2 100 
V_G1 N_1 0 9V 
D_LED1 N_3 N_2 DMOD 
D_LED2 0 N_3 DMOD 
R_R2 N_5 N_6 120 
D_LED4 0 N_6 DMOD 
D_LED3 0 N_6 DMOD 

* --------- models ---------

* model file: /Users/mymac/Documents/EAGLE/projects/Lab2/DMOD.mdl
**********************
* Autodesk EAGLE - Spice Model File
* Date: 9/17/17
* basic diode intrinsic model
**********************
.MODEL DMOD D


* --------- simulation ---------
.print DC I(V_G1) I(V_G2)
.print AC I(V_G1) I(V_G2)
.print TRAN I(V_G1) I(V_G2)
.END










